US08703768B2
Step 3: 1-(2-Methoxyethyl)-4-nitro-1H-pyrazole-3-carboxylic acid dimethylamide
Under inert gas atmosphere, dimethylamine hydrochloride (73 mg, 0.89 mmol) was dissolved in toluene (1.0 ml). Dimethylaluminium chloride (990 μl, 0.9M heptane solution) was added and the reaction mixture was stirred for 10 min. at ambient temperature. 1-(2-Methoxyethyl)-4-nitro-1H-pyrazole-3-carboxylic acid ethyl ester (70 mg, 0.29 mmol) was added and the reaction mixture was heated to 90° C. overnight. After cooling-down to ambient temperature, a small amount of water was added and the resulting suspension was stirred vigorously for 5 min. All volatiles were removed and the product was obtained after purification by silica gel chromatography using a heptane/ethyl acetate gradient as light brown oil (65 mg, 93%).

reactant | dimethylamine hydrochloride | 0.89 mmol, 73 mg | Cl.CNC
reactant | Dimethylaluminium chloride | 0.9M, 990 μl | [Cl-].C[Al+]C
reactant | 1-(2-Methoxyethyl)-4-nitro-1H-pyrazole-3-carboxylic acid ethyl ester | 0.29 mmol, 70 mg | C(C)OC(=O)C1=NN(C=C1[N+](=O)[O-])CCOC | C9H13N3O5
reactant | water | O | H2O
solvent | toluene | 1.0 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-Methoxyethyl)-4-nitro-1H-pyrazole-3-carboxylic acid dimethylamide | CN(C(=O)C1=NN(C=C1[N+](=O)[O-])CCOC)C | C9H14N4O4
